US04337198
(d) 3-(2-amino-4-chloro-N-methyl-phenylamino)-pyrazine-2-carboxylic acid methyl ester
A mixture of 4.0 g 3-(4-chloro-N-methyl-2-nitrophenylamino)-pyrazine-2-carboxylic acid methyl ester, 200 ml ethyl acetate and 4 g Raney Nickel are hydrogenated at room temperature under normal pressure. The catalyst is removed by filtration and the filtrate is evaporated to afford the heading compound. It is used without further purification.

reactant | 3-(4-chloro-N-methyl-2-nitrophenylamino)-pyrazine-2-carboxylic acid methyl ester | 4.0 g | COC(=O)C1=NC=CN=C1N(C)C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C13H11ClN4O4
catalyst | Raney Nickel | 4 g | [Ni] | Ni
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-amino-4-chloro-N-methyl-phenylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1N(C)C1=C(C=C(C=C1)Cl)N | C13H13ClN4O2
